US09334480B2
In a 40 mL vial, 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-3H-benzoimidazole-4-carboxylic acid methyl ester (0.91 g, 3.00 mmol), (S)-2-amino-1-phenylethanol (822 mg, 5.99 mmol) and N-methylmorpholine (909 mg, 988 μL, 8.99 mmol) were combined with DMF (20 mL) to give a black suspension. The vial was sealed and heated in a dry block at 85° C. for 6.5 hr and allowed to cool to room temperature over the weekend. The reaction was diluted with water and the resulting precipitate was washed with water and hexanes yielding 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid methyl ester (0.87 g, 71.8% yield) as a light purple solid. LC/MS calcd for C22H20N4O4 (m/e) 404.0, obsd 405.2 (M+H); 1H NMR (DMSO-d6) δ: 13.53 (s, 1H), 11.26 (d, J=5.8 Hz, 1H), 10.85 (t, J=5.1 Hz, 1H), 7.85 (d, J=8.0 Hz, 1H), 7.76-7.82 (m, 1H), 7.55 (d, J=7.3 Hz, 2H), 7.34-7.42 (m, 3H), 7.26-7.34 (m, 2H), 6.22 (d, J=7.5 Hz, 1H), 5.80 (d, J=4.5 Hz, 1H), 4.85-5.00 (m, 1H), 3.98 (s, 3H), 3.64-3.77 (m, 1H), 3.53-3.63 (m, 1H).

reactant | 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-3H-benzoimidazole-4-carboxylic acid methyl ester | 3.00 mmol, 0.91 g | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2Cl)=O | C14H10ClN3O3
reactant | (S)-2-amino-1-phenylethanol | 5.99 mmol, 822 mg | NC[C@@H](O)C1=CC=CC=C1 | C8H11NO
reactant | N-methylmorpholine | 8.99 mmol, 988 μL, 909 mg | CN1CCOCC1 | C5H11NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid methyl ester | 0.87 g, 71.8% yield | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2NC[C@H](C2=CC=CC=C2)O)=O | C22H20N4O4
